US09422240B2
Ethyl N-[4-(1 H-benzotriazol-1-ylmethoxy)benzyl]-β-alaninate
To a mixture of 1 H-benzotriazole-1-methanol (1.22 g), 4-hydroxybenzaldehyde (1.00 g), triphenylphosphine (2.26 g) and chloroform (27 mL), diisopropyl azodicarboxylate (1.9 mol/L, solution in toluene, 4.53 mL) was added under cooling with ice. After being brought to room temperature, the mixture was stirred for 2.5 hours. Following the addition of triphenylphosphine (1.13 g) and diisopropyl azodicarboxylate (1.9 mol/L, solution in toluene, 2.27 mL), the mixture was stirred for an additional 40 minutes. To the reaction mixture, methanol (165 μL) and acetic acid (750 μL) were added and the resulting mixture was stirred at the same temperature for 20 minutes. To the reaction mixture, β-alanine ethyl hydrochloride (1.38 g), triethylamine (1.26 μL) and sodium triacetoxyborohydride (2.60 g) were added and the mixture was stirred at room temperature for 1.5 hours. After adding 1 mol/L hydrochloric acid, the mixture was washed with diethyl ether. To the aqueous layer, an aqueous solution of 2 mol/L sodium hydroxide was added to provide a basic pH. Following extraction with chloroform, the combined organic layers were washed with saturated brine and thereafter passed through a phase separator for concentrating under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0-50:50) to give the titled compound as a colorless oil (1.13 g).

reactant | 4-hydroxybenzaldehyde | 1.00 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 2.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.9 mol/L, 4.53 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.9 mol/L, 2.27 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | β-alanine ethyl hydrochloride | 1.38 g | C(C)Cl.NCCC(=O)O
reactant | sodium triacetoxyborohydride | 2.60 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | triethylamine | 1.26 μL | C(C)N(CC)CC | C6H15N
solvent | acetic acid | 750 μL | C(C)(=O)O | C2H4O2
solvent | methanol | 165 μL | CO | CH4O
solvent | chloroform | 27 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl N-[4-(1 H-benzotriazol-1-ylmethoxy)benzyl]-β-alaninate | 1.13 g | N1(N=NC2=C1C=CC=C2)COC2=CC=C(CNCCC(=O)OCC)C=C2 | C19H22N4O3
